US07582124B2
3-dimethylamino-1,2,2-triethylpiperidine (compound 1-II-16)
A four-necked pear-shaped flask (500 mL) was charged with 14.04 g (0.07 mol) of 2-(1-chloro-1-ethylpropyl)methyl-1-ethylpyrrolidine, 54.26 g (0.48 mol) of a 40% aqueous dimethylamine solution, and 100 mL of ethanol, and the mixture was stirred at 40° C. for 44 hours.

reactant | 2-(1-chloro-1-ethylpropyl)methyl-1-ethylpyrrolidine | 0.07 mol, 14.04 g | ClC(CC)(CC)C1(N(CCC1)CC)C | C12H24ClN
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-dimethylamino-1,2,2-triethylpiperidine | CN(C1C(N(CCC1)CC)(CC)CC)C | C13H28N2
